US04788199
Ethyl 2-bromopropionate (4.3 cc) is added dropwise to a stirred suspension of 2-phenyl-4-quinolinol (6.63 g) and potassium carbonate (8.3 g) in methyl ethyl ketone (200 cc). The mixture is heated for three hours under reflux. The mixture is brought back to room temperature (approximately 20° C.), the insoluble material drained and the solvents removed under reduced pressure. The residue is taken up with 40°-70° petroleum ether (100 cc) and drained. Ethyl 2-[(2-phenyl-4-quinolyl)oxy]propionate (9.2 g), m.p. 80° C., is thereby isolated.

reactant | Ethyl 2-bromopropionate | 4.3 cc | BrC(C(=O)OCC)C | C5H9BrO2
reactant | 2-phenyl-4-quinolinol | 6.63 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)O | C15H11NO
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 200 cc | C(C)C(=O)C | C4H8O
product | Ethyl 2-[(2-phenyl-4-quinolyl)oxy]propionate | 9.2 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)OC(C(=O)OCC)C | C20H19NO3
